US07592373B2
3-(2-chloro-4-trifluoromethylphenyl)propynoic acid(4-piperidin-1-ylmethylphenyl)amide hydrochloride
Prepared analogously to Example 2.3.f. from 4-piperidin-1-ylmethylphenylamine and (2-chloro-4-trifluoromethylphenyl)propynoic acid. Yield: 170 mg (40% of theory); C22H20ClF3N2O (M=420.86); melting point: 193° C.-195° C.; calc.: molecular ion peak (M−H)−: 419/421(Cl); found: molecular ion peak (M−H)−: 419/421 (Cl); Rf value: 0.5 (silica gel, dichloromethane/methanol (9:1)).

reactant | 4-piperidin-1-ylmethylphenylamine | N1(CCCCC1)CC1=CC=C(C=C1)N | C12H18N2
reactant | (2-chloro-4-trifluoromethylphenyl)propynoic acid | ClC1=C(C=CC(=C1)C(F)(F)F)C#CC(=O)O | C10H4ClF3O2
solvent | dichloromethane methanol | ClCCl.CO
product | 3-(2-chloro-4-trifluoromethylphenyl)propynoic acid(4-piperidin-1-ylmethylphenyl)amide hydrochloride | Cl.N1(CCCCC1)CC1=CC=C(C=C1)NC(C#CC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | InChI=1S/C22H20ClF3N2O.ClH/c23-20-14-18(22(24,25)26)8-6-17(20)7-11-21(29)27-19-9-4-16(5-10-19)15-28-12-2-1-3-13-28;/h4-6,8-10,14H,1-3,12-13,15H2,(H,27,29);1H
